US08071807B2
Step 3: 4-(5-Ethoxycarbonylmethyl-2-methoxy-phenoxy)-3-isopropylsulfanylmethyl-benzoic acid
4-(5-Ethoxycarbonylmethyl-2-methoxy-phenoxy)-3-isopropylsulfanylmethyl-benzoic acid methyl ester (0.5 g, 1.16 mmol) and sodium methylthiolate (0.16 g, 2.3 mmol) were combined in DMF (20 mL) and stirred at 65° C. for 1 hour. After an acidic work-up, the crude material was purified by preparative HPLC to give the title compound.

reactant | 4-(5-Ethoxycarbonylmethyl-2-methoxy-phenoxy)-3-isopropylsulfanylmethyl-benzoic acid methyl ester | 1.16 mmol, 0.5 g | COC(C1=CC(=C(C=C1)OC1=C(C=CC(=C1)CC(=O)OCC)OC)CSC(C)C)=O | C23H28O6S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(5-Ethoxycarbonylmethyl-2-methoxy-phenoxy)-3-isopropylsulfanylmethyl-benzoic acid | C(C)OC(=O)CC=1C=CC(=C(OC2=C(C=C(C(=O)O)C=C2)CSC(C)C)C1)OC | C22H26O6S
